US09193721B2
Step B: Methyl 5-chloro-2-(3-fluorophenyl)nicotinate
A solution of methyl 2,5-dichloronicotinate (8.2 g, 40 mmol), (3-fluorophenyl)boronic acid (6.1 g, 44 mmol), and potassium carbonate (12 g, 86 mmol) in water (71 mL) and 1,4-dioxane (190 mL) was degassed with nitrogen (10 minutes). The reaction mixture was treated with bis(triphenylphosphine)palladium(II) chloride (3.1 g, 4.4 mmol), degassed with nitrogen (10 minutes), and heated at 80° C. for 14.5 hours. The reaction mixture was diluted with ethyl acetate and water and filtered over celite. The aqueous layer was separated and re-extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried with magnesium sulfate, filtered, and concentrated to a crude residue. Purification by flash column chromatography using ethyl acetate in hexanes (0-80%) gave the desired product (8.7 g, 83%). LCMS calculated for C13H10ClFNO2 (M+H)+: m/z=266.0. found: 265.8.

reactant | methyl 2,5-dichloronicotinate | 40 mmol, 8.2 g | ClC1=C(C(=O)OC)C=C(C=N1)Cl | C7H5Cl2NO2
reactant | (3-fluorophenyl)boronic acid | 44 mmol, 6.1 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 86 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 71 mL | O | H2O
solvent | 1,4-dioxane | 190 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 4.4 mmol, 3.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 5-chloro-2-(3-fluorophenyl)nicotinate | 8.7 g, 83% | ClC=1C=NC(=C(C(=O)OC)C1)C1=CC(=CC=C1)F | C13H9ClFNO2
